US08133995B2
Step 2. Preparation of 1-[4-(4-amino-6-ethylpyrrolo[2,1-f][1,2,4]triazin-5-yl)phenyl]-3-[4-(trifluoromethyl)pyridin-2-yl]urea
1-[4-(4-amino-6-vinylpyrrolo[2,1-f][1,2,4]triazin-5-yl)phenyl]-3-[4-(trifluoro-methyl)pyridin-2-yl]urea (150 mg, 0.341 mmol) was slowly dissolved in THF (100 mL) by adding acetic acid (10-20 mL). The solution was further diluted with EtOH (300 mL) and run through the H-Cube® apparatus at 20 bar, rt, 1 mL/min. The resulting solution was concentrated then washed with satd. NaHCO3. A precipitate formed and the desired product was collected by vacuum filtration to yield a tan solid. (150 mg, 99%). 1H-NMR (DMSO-d6) δ 11.89 (bs, 2H), 8.49 (d, J=5.0 Hz, 1H), 8.28 (s, 1H), 7.80 (s, 1H), 7.74 (d, J=8.8 Hz, 2H), 7.60 (s, 1H), 7.27 (m, 3H), 2.48 (q, J=7.8 Hz, 2H), 1.09 (t, J=7.5 Hz, 3H). MS [M+H]+=442.0; LCMS RT=2.95.

reactant | 1-[4-(4-amino-6-vinylpyrrolo[2,1-f][1,2,4]triazin-5-yl)phenyl]-3-[4-(trifluoro-methyl)pyridin-2-yl]urea | 0.341 mmol, 150 mg | NC1=NC=NN2C1=C(C(=C2)C=C)C2=CC=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F | C21H16F3N7O
reactant | acetic acid | 10-20 mL | C(C)(=O)O | C2H4O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOH | 300 mL | CCO | C2H6O
product | 1-[4-(4-amino-6-ethylpyrrolo[2,1-f][1,2,4]triazin-5-yl)phenyl]-3-[4-(trifluoromethyl)pyridin-2-yl]urea | NC1=NC=NN2C1=C(C(=C2)CC)C2=CC=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F | C21H18F3N7O
